US04203988
A. N-(2-Dimethylaminoethyl)-N-(4,6-dimethyl-2-pyridyl)acetamide
One hundred and seventy seven grams (1.08 moles) of N-(4,6-dimethyl-2-pyridyl)acetamide is dissolved in 1.8 l of dry dimethylformamide in a 3 liter 3-neck flask equipped with a mechanical stirrer, thermometer, drying tube and slow nitrogen sweep. Sodium hydride in mineral oil (57%, 45.5 g) is added over a 30 minute period. After stirring for an additional 15 minutes, one hundred thirteen grams of 2-dimethylaminoethyl chloride hydrochloride is added in three portions over a 30 minute period. This is followed by 25.7 g of sodium hydride added in portions over a 60 minute period. Then 58.7 g of 2-dimethylaminoethyl chloride hydrochloride is added over a few minute period followed by 25.7 g of sodium hydride. A total of 96.9 g (2.3 mole) of 57% sodium hydride in mineral oil and 171.7 g (1.2 mole) of 2-dimethylaminoethyl chloride hydrochloride are used. The reaction mixture is stirred at 50° for 30 minutes then heated at 95° for 21/2 hours. After adding 75 ml of ethanol and 75 ml of water, the dimethylformamide is removed by distillation in vacuum.

reactant | N-(4,6-dimethyl-2-pyridyl)acetamide | 1.08 moles, One hundred and seventy seven grams | CC1=CC(=NC(=C1)C)NC(C)=O | C9H12N2O
reactant | sodium hydride | 2.3 mole, 96.9 g | [H-].[Na+]
reactant | 2-dimethylaminoethyl chloride hydrochloride | 1.2 mole, 171.7 g | Cl.CN(CCCl)C
reactant | ethanol | 75 ml | C(C)O | C2H6O
solvent | dimethylformamide | 1.8 l | CN(C=O)C | C3H7NO
solvent | water | 75 ml | O | H2O
product | N-(2-Dimethylaminoethyl)-N-(4,6-dimethyl-2-pyridyl)acetamide | CN(CCN(C(C)=O)C1=NC(=CC(=C1)C)C)C | C13H21N3O
